US09034866B2
Synthesis of (±)-Methyl 10-bromo-3-((1-(tert-butoxycarbonyl)azetidin-3-yl)(hydroxy)methyl)-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate
Methyl 10-bromo-3-((1-(tert-butoxycarbonyl)azetidin-3-yl)(hydroxy)methyl)-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate was prepared similarly according to the procedure in Example 9. Methyl 10-bromo-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate was reacted with 1-boc-3-azetidinecarboxaldehyde to afford 479 mg (63% yield) of the title compound.

reactant | Methyl 10-bromo-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate | BrC=1C(=CC2=C(C=3N(C4CC2C4)C=C(N3)C(=O)OC)C1)F | C15H12BrFN2O2
reactant | 1-boc-3-azetidinecarboxaldehyde | C(=O)(OC(C)(C)C)N1CC(C1)C=O | C9H15NO3
product | (±)-Methyl 10-bromo-3-((1-(tert-butoxycarbonyl)azetidin-3-yl)(hydroxy)methyl)-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate | 479 mg, 63% yield | BrC=1C(=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)OC)C(O)C3CN(C3)C(=O)OC(C)(C)C)C1)F | C24H27BrFN3O5
